US05962462
Step A: N-(2-Hydroxy-2-phenylethyl)-N-methylbenzenesulfonamide
A solution of α-(methylaminomethyl)benzyl alcohol (1.00 g, 6.61 mmol) in 15 mL of THF was cooled in an ice bath. Benzenesulfonyl chloride (0.886 mL, 1.23 g, 6.94 mmol) and N,N-diisopropylethylamine (2.3 mL, 1.7 g, 13 mmol) were added and mixture was allowed to warm to room temperature. After 30 min, the solvent was evaporated and the residue was partitioned between 50 mL of ethyl acetate and 40 mL of saturated aqueous sodium bicarbonate. The aqueous layer was extracted with 2×50 mL of ethyl acetate. The combined organic layers were washed with 50 mL of brine, dried over sodium sulfate, and evaporated. Purification by flash column chromatography on silica gel, eluting with 20-50% ethyl acetate in hexane, gave the title compound in quantitative yield.

reactant | α-(methylaminomethyl)benzyl alcohol | 6.61 mmol, 1.00 g | CNCC(C1=CC=CC=C1)O | C9H13NO
reactant | Benzenesulfonyl chloride | 6.94 mmol, 0.886 mL, 1.23 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | N,N-diisopropylethylamine | 13 mmol, 2.3 mL, 1.7 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | N-(2-Hydroxy-2-phenylethyl)-N-methylbenzenesulfonamide | quantitative yield | OC(CN(S(=O)(=O)C1=CC=CC=C1)C)C1=CC=CC=C1 | C15H17NO3S
